US04933453
3-(4-Bromobutyl)-4-thiazolidinone
A mixture of 4-thiazolidinone (25 g), dimethylformamide (DMF hereafter, 500 ml) and KOH (27.16 g) was stirred under N2 at room temperature for 1.5 h. To the resulting mixture was added 1,4-dibromobutane (101 ml), which rapidly caused the reaction mixture to turn milky white. Stirring was continued at room temperature for 44 h. The reaction mixture was poured into H2O (1000 ml) and the aqueous mixture was extracted with ethyl acetate (EtOAc hereafter, 3×300 ml). The combined extracts were washed successively with H2O (300 ml) and brine (300 ml), dried over Na2SO4, and concentrated in vacuo to an amber oil. HPLC (high performance liquid chromatography) of a 44.95 g aliquot yielded 7.15 g of an oil which upon distillation yielded a clear liquid, b.p. 134°-137° C./0.12 mm Hg.

reactant | 4-thiazolidinone | 25 g | S1CNC(C1)=O | C3H5NOS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | DMF | CN(C)C=O | C3H7NO
reactant | KOH | 27.16 g | [OH-].[K+]
reactant | 1,4-dibromobutane | 101 ml | BrCCCCBr | C4H8Br2
solvent | H2O | 1000 ml | O | H2O
product | 3-(4-Bromobutyl)-4-thiazolidinone | BrCCCCN1CSCC1=O | C7H12BrNOS
